US04958026
500 mg of N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dimethylamine is heated with 10 ml of valeric acid for 7 hours to 120° C. The reaction mixture is concentrated. The residue is taken up in diethyl ether and extracted with 4N hydrochloric acid. The aqueous phase is neutralized with potassium bicarbonate solution and extracted with ethyl acetate. The organic phase is dried with sodium sulfate and concentrated, thus producing 170 mg of 2-butyl-7-methoxy-4-[2-(N,N-dimethylamino)ethyl]benzimidazole, mp 116°-122° C., after recrystallizing the residue from ethyl acetate.

reactant | N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dimethylamine | 500 mg | NC1=C(C=CC(=C1N)OC)CCN(C)C | C11H19N3O
solvent | valeric acid | 10 ml | C(CCCC)(=O)O | C5H10O2
product | 2-butyl-7-methoxy-4-[2-(N,N-dimethylamino)ethyl]benzimidazole | 170 mg | C(CCC)C=1NC2=C(N1)C(=CC=C2CCN(C)C)OC | C16H25N3O
